US06251936B1
[2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenoxy]-acetic acid
Methyl bromoacetate (0.150 mL, 1.58 mmol) was added to a stirred suspension of potassium carbonate (0.223 g, 1.61 mmol), 2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol (0.400 g, 0.789 mmol) in DMF (2.8 mL). After 15 h, the reaction mixture was added to water and extracted with ethyl acetate. Silica gel was added to the ethyl acetate and the solvent was removed. The adsorbate was flashed (9:1 petroleum ether: ethyl actetate) to provide the title compound as a yellow solid (0.305 g, 67%). This solid (0.050 g, 0.086 mmol) was dissolved in 1:1 THF:methanol (2 mL) and treated with aqueous potassium hydroxide (1.0 N, 0.30 mL, 0.30 mmol). After 25 min the reaction mixture was diluted with water, acidified with 10% aqeous HCl and extracted with ether. The ether phase was dried (sodium sulfate), concentrated and recrystallized from petroleum ether:ether to provide the title compound as a white solid (0.025 g, 51%): mp 228-229° C.: NMR (DMSO-d6); δ8.23 (d, J=9 Hz, 1H), 8.14 (d, J=2 Hz, 1H), 8.04 (d, J=2 Hz, 1H), 7.69 (ddd, J=8, 7, 1, 1H), 7.54 (ddd, J=8, 7, 1 Hz, 1H), 7.48 (d, J=8 Hz, 1H), 4.87 (d, J=6 Hz, 1H), 4.82 (d, J=6 Hz, 1H), 2.46 (s, 3H), 1.62 (s, 3H); MS (+FAB): 2 bromine isotope pattern 563 (40%), 565 (100%), 567 (50%); Anal. Calc. for C22H15Br2NO5S: C, 46.75, H, 2.68; N, 2.48. Found: C, 45.18; H, 2.66; N, 2.38.

reactant | Methyl bromoacetate | 1.58 mmol, 0.150 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 1.61 mmol, 0.223 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol | 0.789 mmol, 0.400 g | BrC1(C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O)[N+](=O)[O-] | C20H15Br2NO3S
reactant | water | O | H2O
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
product | [2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenoxy]-acetic acid | 0.305 g, 67% | BrC1(C(OCC(=O)O)C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)[N+](=O)[O-] | C22H17Br2NO5S
